US07834039B2
To a solution of (Z)-methyl 3-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)phenyl)acrylate (30 mg, 0.075 mmol) in EtOH (2 mL) was added 2N aqueous NaOH (2 mL). The reaction was stirred at room temperature, under nitrogen, for 2 hours. Reaction was acidified via addition of 1N HCl, until a precipitate formed. Solid was collected by filtration, washed with 0.2N HCl, and dried in a vac oven to give (Z)-3-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)phenyl)acrylic acid (8.2 mg, 28.3%). LCMS (Table 1, Method c) Rt=2.64 min, m/z 385.12 (M+H)+. 1H NMR (400 MHz, DMSO) δ ppm 13.11-12.20 (m, 1H), 8.15 (d, 2H), 8.04 (d, 1H), 7.99 (dd, 1H), 7.78 (d, 2H), 7.37 (d, 1H), 7.03 (d, 1H), 6.12 (d, 1H), 4.81 (sept., 1H), 1.33 (d, 6H)

reactant | (Z)-methyl 3-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)phenyl)acrylate | 0.075 mmol, 30 mg | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=CC=C(C=C1)\C=C/C(=O)OC | C21H19ClN2O4
reactant | NaOH | 2N, 2 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | EtOH | 2 mL | CCO | C2H6O
product | (Z)-3-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)phenyl)acrylic acid | 8.2 mg, 28.3% | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=CC=C(C=C1)\C=C/C(=O)O | C20H17ClN2O4
